US05424280
Preparation of p-{5-[(2-Chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-2-nitrophenoxy}phenol
A solution of 4-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-2-(p-methoxyphenoxy)-1-nitrobenzene (12.4 g, 0.027 mol) in methylene chloride is cooled to -78° C., treated with boron tribromide (68 mL of a 1M solution in methylene chloride, 0.068 mol), stirred at -78° C. for two hours, warmed to room temperature and poured onto cracked ice. After the ice has melted, the phases are separated and the aqueous phase is extracted with methylene chloride. The organic phase is combined with the organic extracts and the resultant organic solution is washed with brine and dried over anhydrous sodium sulfate. Silica gel (5 g) is added to the dried organic solution and the mixture is concentrated in vacuo to obtain a brown powder. The powder is placed on top of silica gel in a flash chromatography column and eluted with a (1:1) ether/hexanes solution to give the title product as a brown oil (7.5 g) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | 4-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-2-(p-methoxyphenoxy)-1-nitrobenzene | 0.027 mol, 12.4 g | ClC1=C(C(=CC(=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])OC1=CC=C(C=C1)OC)F)C(F)(F)F | C20H12ClF4NO5
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | p-{5-[(2-Chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-2-nitrophenoxy}phenol | 7.5 g | ClC1=C(C(=CC(=C1)OC=1C=CC(=C(OC2=CC=C(C=C2)O)C1)[N+](=O)[O-])F)C(F)(F)F | C19H10ClF4NO5
